US08648087B2
Step D: Preparation of 1-(2,5-dihydroxyphenyl)ethanone oxime:
To a solution of 1-(2,5-dihydroxyphenyl)ethanone (10.0 g, 65.73 mmol) in ethanol (200 mL) was added hydroxylamine hydrochloride (13.7 g, 197.2 mmol). After heating to reflux for 16 hours, the solvent was reduced under reduced pressure. Ethyl acetate (200 mL) and water were added and the mixture was extracted with ethyl acetate (3×). The combined organic layers were dried and concentrated to provide the product (10 g, 91%) as yellow solid.

reactant | 1-(2,5-dihydroxyphenyl)ethanone | 65.73 mmol, 10.0 g | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | hydroxylamine hydrochloride | 197.2 mmol, 13.7 g | Cl.NO
reactant | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 1-(2,5-dihydroxyphenyl)ethanone oxime | 10 g, 91% | OC1=C(C=C(C=C1)O)C(C)=NO | C8H9NO3
